US04081537
17β-Acetoxy-17α-ethynyl-18-methyl-4,15-estradien-3-one
A solution of 2.0 g. of 17α-ethynyl-17β-hydroxy-18-methyl-4,15-estradien-3-one in 40 ml. of collidine and 13 ml. of acetic anhydride is heated to boiling for 5 hours under nitrogen. After cooling, the solution is poured into ice/water. The reaction product is extracted with methylene chloride, washed in succession with 2N hydrochloric acid, sodium bicarbonate solution, and water, and dried over sodium sulfate. The crude product is chromatographed on silica gel. With 25-30% ethyl acetate-hexane, 950 mg. of 17β-acetoxy-17β-ethynyl-18-methyl-4,15-estradien-3-one is eluted which melts, after recrystallization from acetone/methanol, at 163°-164°.

reactant | 17α-ethynyl-17β-hydroxy-18-methyl-4,15-estradien-3-one | C(#C)[C@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)O | C21H26O2
reactant | collidine | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 17β-Acetoxy-17α-ethynyl-18-methyl-4,15-estradien-3-one | C(C)(=O)O[C@@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)C#C | C23H28O3
